Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
Colonoscopy with biopsy ___

 
History of Present Illness:
This patient is a ___ year old female with Hx of sigmoid 
diverticulitis s/p resection in ___, who complains of RLQ 
abdominal pain. The patient states that her pain began yesterday 
afternoon, worsened overnight and causing her to present to the 
ED around 3AM. She describes it as a "gnawing" pain, 
nonradiating, constant and ___ intensity. She states this 
feels similar to her episode of diverticulitis several years 
ago, only is present on the other side of her abdomen. She 
denies any fever, nausea, vomiting, SOB, Chest pain, BRBPR. She 
does endorse subjective feeling of chills.  
.  
Prior to the current episode, the patient reports having a 
"sinus infection" about 3 weeks ago that resolved over one week 
ago. About 2 weeks ago she also began taking a low dose OCP in 
order to treate perimenopausal cramping. On the second week she 
started to have spotting, with intermittent bleeding and LH this 
past week. She had an episode of diarrhea one week ago ___ 
morning), that was nonbloody and resolved on its own. Starting 
on ___ she has had a feeling of "lightheadedness" 
associated with diaphoresis and nausea.  
.  
In the ED, initial VS were: 8 97.2 88 117/64 18 100%. Patient 
was given morphine 4 mg IV, dilaudid 0.5 mg IV x 6, zofran 4 mg 
IV, and 3 L NS. She underwent bimanual exam that was reportedly 
without signs of mass, CMT, or adnexal tenderness. Labs were 
notable for a leukocytosis of 11, but were otherwise 
unremarkable. CT abdomen showed normal appendix but thick-walled 
cecum with appearance of possible mass. Pelvic ultrasound did 
not show any source of her pain. As she did not have adequate 
relief with pain medications, she was admitted to the medical 
service for pain control.  
.  
Vitals on transfer were 97.2 68 98/55 18 100%RA  
.  
On the floor, patient reported continued ___ pain in the RLQ, 
along with some mild nausea.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied vomiting, diarrhea, 
constipation or BRBPR. No dysuria. Denied arthralgias or 
myalgias.  

 
Past Medical History:
Hx diverticulitis s/p sigmoid resection ___  
Anxiety  
Allergic rhinitis  
GERD  
Eczema  
Migraine headaches  
Eustacian tube dysfunction  

 
Social History:
___
Family History:
Father with hx of colitis, F died lung Ca, Aunt with breast ___, 
Paternal GM with stomach Ca, Mother with CHF and DM2 
 
Physical Exam:
Vitals: T: 97.6 BP: 96/62 P: 68 R:18 O2: 99% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, bowel sounds present, TTP in RLQ 
with deep palpation only, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
Laboratory Findings:
___ 03:30AM BLOOD WBC-11.3* RBC-3.93* Hgb-12.2 Hct-34.9* 
MCV-89 MCH-31.0 MCHC-34.8 RDW-12.8 Plt ___
___ 03:30AM BLOOD Neuts-76.5* ___ Monos-2.8 Eos-1.8 
Baso-0.4
___ 05:26AM BLOOD ___
___ 03:30AM BLOOD Glucose-123* UreaN-16 Creat-0.8 Na-137 
K-4.6 Cl-101 HCO3-25 AnGap-16
___ 03:30AM BLOOD ALT-16 AST-37 AlkPhos-36 TotBili-0.5
___ 03:30AM BLOOD Lipase-28
___ 05:27AM BLOOD Calcium-8.3* Phos-2.0*# Mg-2.0
___ 03:39AM BLOOD Lactate-0.9
___ 05:26AM BLOOD WBC-5.4 RBC-3.41* Hgb-10.6* Hct-30.6* 
MCV-90 MCH-31.1 MCHC-34.7 RDW-12.5 Plt ___
___ 05:26AM BLOOD Glucose-88 UreaN-5* Creat-0.7 Na-144 
K-4.1 Cl-106 HCO3-28 AnGap-14
___ 03:30AM URINE Color-Straw Appear-Clear Sp ___
___ 03:30AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 03:30AM URINE RBC-<1 WBC-3 Bacteri-FEW Yeast-NONE Epi-0

Microbiology:
URINE CULTURE (Final ___:    <10,000 organisms/ml
Blood Culture ___: No growth (not final at time of 
discharge)

Imaging:
Pelvic U/S ___: FINDINGS: Transabdominally the uterus measures 
8.6 x 4.6 x 5.4 cm, and is slightly heterogeneous in appearance 
with no distinct fibroids seen. Transvaginal exam was performed 
for better evaluation of the uterus and adnexa. The endometrial 
stripe measures 5 mm. The left ovary measures 3.5 x 1.6 x 1.8 
cm. The right ovary measures 2.9 x 1.4 x 1.7 cm. There is a 
small echogenic focus within the right ovary measuring 5 x 4 x 4 
mm, likely a small hemorrhagic cyst. Both ovaries demonstrate 
normal arterial and venous waveforms.   
IMPRESSION:  
1. No evidence of ovarian torsion.  
2. Small right ovarian hemorrhagic cyst. 
.
CT abd/pelvis w/o contrast ___:  Scattered calcified 
granulomas in 
the lung bases are stable. There is no new focal pulmonary 
nodule, 
consolidation, or effusion. The cardiac apex is within normal 
limits.  
Complete evaluation of the intra-abdominal viscera is limited by 
the 
non-contrast technique. However, the liver appears homogeneous 
without focal lesion. No intra- or extra-hepatic biliary ductal 
dilatation is identified.  The gallbladder, spleen, and pancreas 
appear within normal limits. The adrenal glands are symmetric 
without focal nodule. The kidneys appear homogeneous without 
focal lesion or hydronephrosis. The abdominal aorta is 
non-aneurysmal throughout its visualized course. The second and 
third portions of the duodenum are equivocally thickened which 
may be due to underdistension. No small bowel obstruction is 
identified. The appendix is well visualized and is normal in 
appearance. There is no free fluid or free air. 
  
CT PELVIS WITHOUT INTRAVENOUS CONTRAST ___: Initial images 
demonstrated a solid mass like abnormality in the cecal tip 
measuring approximately 3 cm (2:51).  As this was potentially 
concerning for a cecal mass, rescanning of a limited portion of 
pelvis was performed after passage of oral contrast, confirming 
the finding and demonstrating a 3 cm mass with thickening of the 
adjacent cecal wall (601:15). The adjacent appendix is normal 
and there is no pericecal inflammatory change.  
The remainder of the colon is normal without evidence of 
obstruction or 
inflammation. The surgical anastomosis within the lower midline 
pelvis 
appears unremarkable. There is no pelvic free fluid. The uterus 
and adnexa 
appear within normal limits. The bladder is markedly distended 
but is 
otherwise unremarkable. No pathologically enlarged pelvic or 
inguinal lymph nodes are identified. 
OSSEOUS STRUCTURES: No bone destructive lesion or acute fracture 
is 
identified.  
IMPRESSION: 
1. Findings consistent with a 3 cm cecal mass and thickening of 
the cecal tip concerning for neoplasm. Atypical infectious 
process causing this appearance is felt less likely due to lack 
of inflammatory stranding. Recommend colonoscopy for further 
evaluation.  
2. Normal appendix, no signs of inflammation. 
3. No small or large bowel obstruction. 
4. Equivocal thickening of duodenum likely related to 
underdistention.  

Colonoscopy ___:
Findings:  
 Lumen: Evidence of a previous end to end ___ 
anastomosis was seen at the sigmoid colon.  
 Protruding Lesions A ulcerated 3 cm mass of malignant 
appearance was found in the cecum. The scope traversed the 
lesion. Cold forceps biopsies were performed for histology at 
the cecum.  
 Excavated Lesions Multiple diverticula with small openings were 
seen in the descending colon.  
Impression: Mass in the cecum (biopsy)
Diverticulosis of the descending colon
Previous end to end ___ anastomosis of the sigmoid 
colon
Otherwise normal colonoscopy to cecum and terminal ileum 
.
PATHOLOGY:
DIAGNOSIS: 
"Cecal mass", mucosal biopsies: 
Colonic mucosa with focal ischemic change and abundant 
associated ulceration, exudate, and granulation tissue 
formation; no carcinoma or dysplasia in these samples.  Five 
levels are examined.

 

 
Brief Hospital Course:
The patient is a ___ year-old female with history significant for 
diverticulitis s/p sigmoid resection in ___, who presented with 
abdominal pain and was found to have cecal mass.  
.  
# Abdominal pain: Was most likely related to hemorrhagic ovarian 
cyst.  Initially, patient had significant pain that was not 
relieved with dilaudid.  However, over the course of several 
days her pain resolved on its own and she no longer required any 
pain medications.  Bloodwork and imaging were not suggestive of 
any intra-abdominal infection.  The patient was advised to 
follow-up with her gynecologist regarding her ovarian cyst, and 
the need for continued therapy with low dose oral contraceptive. 
  
.  
# Cecal Mass: During the workup of this patient's abdominal 
pain, a CT of the abdomen and pelvis revealed a 3 cm cecal mass 
concerning for malignancy.  During this hospitalization she 
underwent colonoscopy with biopsy of the mass.  She was 
instructed to follow-up with her outpatient gastroenterologist 
regarding the results of this biopsy in one week.  The biopsy 
was negative for malignancy.   
.  
# Anxiety - Patient was continued on home regimen of zoloft and 
ativan.  
.  
# Gerd - Patient continued on omeprazole, zantac BID per 
outpatient regimen.  

 
Medications on Admission:
-Fish Oil 1,000 mg Cap  
-Axert 12.5 mg Tab  
1 Tablet(s) by mouth at onset of HA may repeat in 2 hour up till 
2 a day  
-Lexapro 10 mg Tab daily  
-Cholecalciferol (Vitamin D3) 1,000 unit Tab  
-lorazepam 0.5 mg Tab qd prn  
-Omeprazole 20 mg Cap, Delayed Release BID  
-tramadol 50 mg Tab every six (6) hours as needed for pain  
-oxycodone 5 mg Tab  
___ Tablet(s) by mouth qhs prn as needed for pain  
-Multivitamin Cap  
-Zantac 150 mg Cap 1 Capsule(s) by mouth twice a day  
-Fluticasone 50 mcg/Actuation Nasal Spray, Susp  
2 sprays(s) intranasally for 7d, then 1 spray qd  
-Calcium Citrate 1,000 mg Tab  
-OCPs - Camrasce? started 2 weeks ago  

 
Discharge Medications:
1. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. Axert 12.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for migraine.  
3. escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. cholecalciferol (vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
5. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for anxiety.  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
7. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
9. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
10. calcium carbonate 500 mg calcium (1,250 mg) Tablet Sig: Two 
(2) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cecal Mass
Hemorrhagic ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for abdominal pain, which we 
think was related to a hemorrhagic ovarian cyst.  You were 
treated with analgesics, and your pain resolved.  You also had a 
CAT scan showing a mass in the cecum.  You underwent a 
colonoscopy to biopsy this mass, and you should follow-up with 
your gastroenterologist. 

You should also see your gynecologist regarding the need to 
restart your oral contraceptive.

We did not make any changes to your home medications. 
 
Followup Instructions:
___